US07939526B2
A suspension of 2-{2-[(tert-butoxycarbonyl)amino]ethoxy}ethyl methanesulfonate (28 g, 99 mmol) and sodium thiomethoxide (8.3 g, 119 mmol) in N,N-dimethylformamide (DMF, 200 mL) was heated to 80° C. and maintained at that temperature until analysis by thin layer chromatography (TLC) indicated that the starting material had been consumed. The reaction mixture was allowed to cool to ambient temperature and was then quenched with water (200 mL). The reaction mixture was extracted with diethyl ether (2×200 mL). The combined extracts were washed sequentially with saturated aqueous sodium bicarbonate (100 mL) and brine (100 mL), dried over anhydrous sodium sulfate, filtered, and then concentrated under reduced pressure to provide 22.5 g of tert-butyl 2-[2-(methylthio)ethoxy]ethylcarbamate as a light yellow oil.

reactant | 2-{2-[(tert-butoxycarbonyl)amino]ethoxy}ethyl methanesulfonate | 99 mmol, 28 g | CS(=O)(=O)OCCOCCNC(=O)OC(C)(C)C | C10H21NO6S
reactant | sodium thiomethoxide | 119 mmol, 8.3 g | C[S-].[Na+]
solvent | N,N-dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
product | tert-butyl 2-[2-(methylthio)ethoxy]ethylcarbamate | 22.5 g | CSCCOCCNC(OC(C)(C)C)=O | C10H21NO3S
